************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: PRE_CHARGE
* View Name:     schematic
* Netlisted on:  May 28 19:00:16 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    PRE_CHARGE
* View Name:    schematic
************************************************************************

.SUBCKT PRE_CHARGE BL BLbar clk vdd
*.PININFO clk:I BL:B BLbar:B vdd:B
MM2 BL clk BLbar vdd PMOS_VTG W=90n L=50n m=1
MM1 BLbar clk vdd vdd PMOS_VTG W=90n L=50n m=1
MM0 vdd clk BL vdd PMOS_VTG W=90n L=50n m=1
.ENDS

